US08022205B2
Using bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (100 mg) and 1-(4-bromo-benzenesulfonyl)-4-ethyl-piperazine (prepared from 4-bromo-benzenesulfonyl chloride and N-ethylpiperazine in acetonitrile, 68 mg) instead of 4-bromobenzoic acid methyl ester in Example 1-D-08, in the same manner as Example 1-D-08, a crude product of (5-{7-[4-(4-ethyl-piperazine-1-sulfonyl)-phenyl]-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}-pyrimidin-2-yl)-bis-(4-methoxy-benzyl)-amine was obtained, and then the PMB groups were removed according to the above Deprotection method 1, to obtain the desired compound (D-96) as an ivory powder (70 mg, 69%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 100 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | 1-(4-bromo-benzenesulfonyl)-4-ethyl-piperazine | 68 mg | BrC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)CC | C12H17BrN2O2S
product | (5-{7-[4-(4-ethyl-piperazine-1-sulfonyl)-phenyl]-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}-pyrimidin-2-yl)-bis-(4-methoxy-benzyl)-amine | C(C)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2 | C42H49N9O5S
